US07081456B2
Phosphorus oxychloride (0.77 ml, 0.082 mols) was added in one portion to a suspension of 2-cyclopropyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester (1.0 g, 0.041 mols) in acetonitrile and the mixture was heated at 75° C. for 90 minutes (becomes a clear solution above 65° C.). The resulting light brown solution was poured into saturated sodium bicarbonate (100 ml); the suspension was extracted with ethyl acetate and the combined organic extracts were dried and concentrated in vacuo to leave 4-Chloro-2-cyclopropyl-quinoline-3-carboxylic acid ethyl ester (1.15 g, 106%) as an off-white solid. Rf (AcOEt)=0.73.

reactant | Phosphorus oxychloride | 0.082 mols, 0.77 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-cyclopropyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 0.041 mols, 1.0 g | C(C)OC(=O)C1=C(NC2=CC=CC=C2C1=O)C1CC1 | C15H15NO3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Chloro-2-cyclopropyl-quinoline-3-carboxylic acid ethyl ester | 1.15 g, 106% | C(C)OC(=O)C=1C(=NC2=CC=CC=C2C1Cl)C1CC1 | C15H14ClNO2
